US04511573
A solution of 7.46 g of 2-(3-pyridyl)-3-[5-(ethoxycarbonyl)-pentyl]-indole in 2N aqueous hydrochloric acid (275 ml) is heated at reflux for 20 hours. The hot reaction mixture is filtered, and the filtrate on cooling gives yellow crystals which are collected by filtration and dried to yield 2-(3-pyridyl)-3-(5-carboxypentyl)-indole hydrochloride, m.p. 220°-222°.

reactant | 2-(3-pyridyl)-3-[5-(ethoxycarbonyl)-pentyl]-indole | 7.46 g | N1=CC(=CC=C1)C=1NC2=CC=CC=C2C1CCCCCC(=O)OCC | C21H24N2O2
reactant | hydrochloric acid | 2N, 275 ml | Cl | ClH
product | 2-(3-pyridyl)-3-(5-carboxypentyl)-indole hydrochloride | Cl.N1=CC(=CC=C1)C=1NC2=CC=CC=C2C1CCCCCC(=O)O | InChI=1S/C19H20N2O2.ClH/c22-18(23)11-3-1-2-9-16-15-8-4-5-10-17(15)21-19(16)14-7-6-12-20-13-14;/h4-8,10,12-13,21H,1-3,9,11H2,(H,22,23);1H
